data/oMe_Silver.jsonl
{"reaction_id": "NR-139_1-c1ccc(OC)cc1_2-CCCC_3-c1ccc(c(OC)c1)OC_4-c1ccccc1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1ccccc1)(c1ccc(OC)cc1)(CCCC)(c1ccc(c(OC)c1)OC)"],"products_smiles": ["C(c1ccc(OC)cc1)(CCCC)(c1ccc(c(OC)c1)OC)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1ccccc1)(c1ccc(OC)cc1)(CCCC)(c1ccc(c(OC)c1)OC)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](c1ccc(OC)cc1)(CCCC)(c1ccc(c(OC)c1)OC)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(CCCC)(c1ccc(c(OC)c1)OC)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-052_1-C(C)(C)C_2-C(C)(C)C_3-CCCC(C)C","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(C(C)(C)C)(C(C)(C)C)(CCCC(C)C)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(C(C)(C)C)(C(C)(C)C)(CCCC(C)C)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(C)(C)C)(C(C)(C)C)(CCCC(C)C)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
{"reaction_id": "NR-138_1-C1CCCCC1_2-c1ccccc1_3-Br_4-c1ccc(Cl)cc1_5-c1ccc(N(=O)=O)cc1_6-C","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C1CCCCC1)(c1ccccc1)(Br)","C(=O)(c1ccc(Cl)cc1)(c1ccc(N(=O)=O)cc1)","NC"],"products_smiles": ["C(C(=O)C1CCCCC1)(c1ccccc1)(Br)C(c1ccc(Cl)cc1)(c1ccc(N(=O)=O)cc1)NC"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccccc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(c1ccccc1)=C(O)C1CCCCC1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccccc1)(Br)C(c1ccc(Cl)cc1)(c1ccc(N(=O)=O)cc1)NC","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C1CCCCC1)(c1ccccc1)(Br)C(c1ccc(Cl)cc1)(c1ccc(N(=O)=O)cc1)NC","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
